US04107418
A 2-liter six-necked separable polymerization flask equipped with a vane-type stirring rod connected to a motor controllable as to its rotating speed, a condenser, a thermometer, a stopper cock and two metering pumps was disposed in a constant-temperature tank including a temperature controlling device, and the inside of the flask was thoroughly purged with nitrogen. 1065 ml of n-hexane and 35 millimoles of ethyl acetate were fed to the flask in an atmosphere of nitrogen, mixed, and cooled to 0° C. To the resulting solution was slowly added dropwise 17.5 millimoles of ethylaluminum dichloride with stirring over the course of 5 minutes. After the addition, the mixed solution was allowed to stand for 1 hour with stirring in order to complete the formation of a complex between ethylaluminum dichloride and ethyl acetate. The mixture was then heated to 10° C, and at this temperature, 298.0 g of an equimolar mixture of 4-methyl-1-pentene and methyl acrylate, and 300 ml of a 0.03 mole/liter n-hexane solution of tert-butyl peroxy isobutyrate were fed for 5 hours at fixed rates using the two metering pumps so that the total amount of the two monomers in the reaction system became not more than 2 moles/liter of the solvent. Soon after this feeding began, fine polymer particles were formed and came afloat in the reaction system. These particles gradually increased in number and size with the lapse of time. After the end of addition, the polymerization system was maintained for an additional 15 hours at 10° C with stirring. After the end of polymerization, 200 ml of a 10% by volume n-hexane solution of isopropyl alcohol was added to the reaction mixture to decompose the catalyst. In the stirred state, a great amount of the polymer formed ws dispersed and suspended inthe form of granules in the polymerization system. Mere filtration of the reaction mixture could result in the recovery of the polymer particles. The polymer particles were thoroughly washed with n-hexane, and dried at 30° under reduced pressure to afford 158 g of a 4-methyl-1-pentene/methyl acrylate copolymer.

reactant | ethylaluminum dichloride | 17.5 millimoles | [Cl-].[Cl-].C(C)[Al+2]
reactant | 4-methyl-1-pentene | CC(CC=C)C | C6H12
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | n-hexane | 0.03 mole/liter | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | 1065 ml | CCCCCC | C6H14
solvent | ethyl acetate | 35 millimoles | C(C)(=O)OCC | C4H8O2
product | 4-methyl-1-pentene methyl acrylate | 158 g | CC(CC=C)C.C(C=C)(=O)OC | InChI=1S/C6H12.C4H6O2/c1-4-5-6(2)3;1-3-4(5)6-2/h4,6H,1,5H2,2-3H3;3H,1H2,2H3
